US04223142
(b) 5-Cyano-6-formyl-2-piperidinyl-3-pyridine-carboxylic acid, ethyl ester
27 g of 5-cyano-6-methyl-2-piperidinyl-3-pyridine-carboxylic acid, ethyl ester (0.1 mol) and 12.2 g selenium dioxide (0.11 mol) are refluxed together in diethyleneglycoldimethyl ether with stirring for 1.5 hours. The solvent is distilled off in vacuo and the oily residue crystallized with diethyl ether. Yield 19 g (66%); m.p. 62°-64° C. (ether).

reactant | 5-cyano-6-methyl-2-piperidinyl-3-pyridine-carboxylic acid, ethyl ester | 0.1 mol, 27 g | C(#N)C=1C=C(C(=NC1C)N1CCCCC1)C(=O)OCC | C15H19N3O2
reactant | selenium dioxide | 0.11 mol, 12.2 g | [Se](=O)=O | O2Se
solvent | ether | CCOCC | C4H10O
product | 5-Cyano-6-formyl-2-piperidinyl-3-pyridine-carboxylic acid, ethyl ester | C(#N)C=1C=C(C(=NC1C=O)N1CCCCC1)C(=O)OCC | C15H17N3O3
